US09233982B2
Step 4: (E)-2-(2-(3-bromophenyl)-6,6-dimethyl-6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)ethyl carbamimidothioate
2-(3-Bromophenyl)-6,6-dimethyl-4-vinyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-ol (0.39 g, 1.0 mmol) was suspended in acetic acid (2.0 mL). Thiourea (83 mg, 1.0 mmol) was added and the reaction was stirred at 25° C. for 18 hr. The mixture was diluted with diethyl ether and petroleum ether yielding a solid precipitate. The solid was filtered, washed with additional diethyl ether and dried in vacuo to afford the title compound as the acetate salt (0.3 g, 60%).

reactant | 2-(3-Bromophenyl)-6,6-dimethyl-4-vinyl-4,5,6,7-tetrahydrobenzo[b]thiophen-4-ol | 1.0 mmol, 0.39 g | BrC=1C=C(C=CC1)C1=CC2=C(S1)CC(CC2(O)C=C)(C)C | C18H19BrOS
reactant | Thiourea | 1.0 mmol, 83 mg | NC(=S)N | CH4N2S
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-2-(2-(3-bromophenyl)-6,6-dimethyl-6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)ethyl carbamimidothioate | C(N)(=N)SC/C=C/1\CC(CC=2SC(=CC21)C2=CC(=CC=C2)Br)(C)C | C19H21BrN2S2
